US04798833
(a) Diethyl (2,2-dimethoxyethyl)malonate
Diethyl malonate (168.18 g, 1.05 mol) was added to a solution of sodium ethoxide (from 23.0 g, 1.00 mol of sodium) in 500 ml of dry ethanol at 50° C. during 45 min. Bromoacetaldehyde dimethylacetal (74.2 g, 1.06 mol) was added at the same temperature during 45 min. and the mixture was refluxed over-night. Ethanol was evaporated in vacuum, and the residue was dissolved in 200 ml of water and extracted with 3×300 ml of ether. The extracts were dried (MgSO4), evaporated, and distilled in vacuum to give 115.0 g (46%) of the title compound. B.p. 97°-101° C. (0.6 mm Hg).

reactant | Diethyl malonate | 1.05 mol, 168.18 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide | 1.00 mol, 23.0 g | [O-]CC.[Na+]
reactant | Bromoacetaldehyde dimethylacetal | 1.06 mol, 74.2 g | COC(CBr)OC | C4H9BrO2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | Diethyl (2,2-dimethoxyethyl)malonate | 115.0 g, 46% | COC(CC(C(=O)OCC)C(=O)OCC)OC | C11H20O6
